US06642265B1
Preparation of 3-Hydroxy-4-{[5-hydroxy-3-methyl-1-(4-methylphenyl)-1H-pyrazol-4-yl]azo}benzoic Acid
A solution of 4-amino-3-hydroxybenzoic acid (0.77 g, 0.005 mol.) in 1N aqu. hydrochloric acid (15.0 mL) was cooled to 0° C. and treated slowly with a solution of sodium nitrite (0.38 g; 0.0055 mol.) in water (5.0 mL). After addition the solution was stirred at 0° C. for 10 min. then 3-methyl-1-(4-methylphenyl)-3-pyrazolin-5-one (0.94 g; 0.005 mol.) was added in one portion. Ethanol (15.0 mL) was added followed by sat. aqu. sodium hydrogen carbonate until the pH of the solution was 8 (ca. 10 mL needed). The red solution was then stirred at room temperature for 16 h.

reactant | 4-amino-3-hydroxybenzoic acid | 0.005 mol, 0.77 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | hydrochloric acid | 15.0 mL | Cl | ClH
reactant | sodium nitrite | 0.0055 mol, 0.38 g | N(=O)[O-].[Na+]
reactant | 3-methyl-1-(4-methylphenyl)-3-pyrazolin-5-one | 0.005 mol, 0.94 g | CC=1NN(C(C1)=O)C1=CC=C(C=C1)C | C11H12N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 5.0 mL | O | H2O
solvent | Ethanol | 15.0 mL | C(C)O | C2H6O
product | 3-Hydroxy-4-{[5-hydroxy-3-methyl-1-(4-methylphenyl)-1H-pyrazol-4-yl]azo}benzoic Acid | OC=1C=C(C(=O)O)C=CC1N=NC=1C(=NN(C1O)C1=CC=C(C=C1)C)C | C18H16N4O4
